US08252781B2
Preparation of 4,4-dimethyl-2-(adamantan-2-yl)-1-[4-(trifluoromethyl)benzyl]-1,2-diazetidin-3-one
2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one and 4-(trifluoromethyl)benzyl bromide were used for a similar reaction and treatment as Process 6 of Example 1, and the title compound was obtained as a white crystalline powder.

reactant | 2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)(C)C | C14H22N2O
reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
product | 4,4-dimethyl-2-(adamantan-2-yl)-1-[4-(trifluoromethyl)benzyl]-1,2-diazetidin-3-one | CC1(C(N(N1CC1=CC=C(C=C1)C(F)(F)F)C1C2CC3CC(CC1C3)C2)=O)C | C22H27F3N2O
